US07579473B2
To the crude 2-acetylamino-4,5-dimethoxy-benzoic acid methyl ester obtained above was added ammonium acetate (7.98 g, 0.104 mol) and acetic acid (10 mL). The mixture was heated at reflux in a pressure tube until the formation of the desired cyclization product, as indicated by LC/MS: m/z 221 (M+H). After cooling to RT, the reaction mixture was diluted with water, and extracted with EtOAc 3 times. The combined organic phase was basified with aq. NaOH solution, and washed 3 times with EtOAc. The aqueous layer was then acidified with aq. HCl and extracted three times with EtOAc. The combined organic extract was dried over Na2SO4 and concentrated in vacuo, affording 6,7-dimethoxy-2-methyl-quinazolin-4-ol (0.15 g), which was used without further purification. LC/MS: m/z 221 (M+H).

reactant | 2-acetylamino-4,5-dimethoxy-benzoic acid methyl ester | COC(C1=C(C=C(C(=C1)OC)OC)NC(C)=O)=O | C12H15NO5
reactant | ammonium acetate | 0.104 mol, 7.98 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 6,7-dimethoxy-2-methyl-quinazolin-4-ol | 0.15 g | COC=1C=C2C(=NC(=NC2=CC1OC)C)O | C11H12N2O3
